US04839355
A mixture of 0.52 g ethyl (S)-10-(2,6-dimethyl-4-pyridinyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate and 10 ml 1M hydrochloric acid was heated at reflux for one hour. The reaction mixture was cooled, poured into sodium acetate solution and extracted with chloroform. The extract was dried (sodium sulfate) and concentrated, and the residue was recrystallized from methanol to give 300 mg (S)-10-(2,6-dimethyl-4-pyridinyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid, colorless powder, m.p. 305°-308° C., [α]D25 =-39.8°.

reactant | ethyl (S)-10-(2,6-dimethyl-4-pyridinyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate | 0.52 g | CC1=NC(=CC(=C1)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)OCC)F)C | C22H21FN2O4
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | 1M, 10 ml | Cl | ClH
product | (S)-10-(2,6-dimethyl-4-pyridinyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylic acid | 300 mg | CC1=NC(=CC(=C1)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)O)F)C | C20H17FN2O4
